US07932284B2
4-(1-cyclopentyl-6-nitro-1H-indol-3-yl)-benzonitrile (11, R1=cyclopentyl)
Method M Add KOH pellets (200 mg, 3.42 mmol) to a solution of 4-(6-nitro-1H-indol-3-yl)-benzonitrile, 9, (150 mg, 0.57 mmol) in DMSO (10 mL). After the KOH pellets dissolve, add cyclopenyl tosylate (210 mg, 0.85 mmol) in DMSO (3 mL). Allow the reaction mixture to stir overnight at ambient temperature. Add additional cyclopentyl tosylate (210 mg, 0.85) and allow the reaction mixture to stir for another 6 h. Add still more cyclopentyl tosylate (210 mg, 0.85 mmol) and allow the reaction mixture to stir overnight at ambient temperature. Quench the resulting reaction mixture with 5N HCl/ice. Extract the quenched reaction mixture with EtOAc. Wash the EtOAc extracts with brine. Dry the organic layer over MgSO4, filter, and remove the solvent from the filtrate to provide a solid. Purify by silica gel column chromatography (0-100% EtOAc/hexanes gradient) and collect the fractions and remove the solvent to afford 110 mg (58%) of the title compound. LRMS (API ES+)=332.2 (M+H).

reactant | KOH | [OH-].[K+]
reactant | 4-(6-nitro-1H-indol-3-yl)-benzonitrile | [N+](=O)([O-])C1=CC=C2C(=CNC2=C1)C1=CC=C(C#N)C=C1 | C15H9N3O2
reactant | cyclopentyl tosylate | 210 mg | S(=O)(=O)(OC1CCCC1)C1=CC=C(C)C=C1 | C12H16O3S
reactant | cyclopentyl tosylate | 0.85 mmol, 210 mg | S(=O)(=O)(OC1CCCC1)C1=CC=C(C)C=C1 | C12H16O3S
solvent | DMSO | 10 mL | CS(=O)C | C2H6OS
solvent | DMSO | 3 mL | CS(=O)C | C2H6OS
product | 4-(1-cyclopentyl-6-nitro-1H-indol-3-yl)-benzonitrile | 110 mg, 58% | C1(CCCC1)N1C=C(C2=CC=C(C=C12)[N+](=O)[O-])C1=CC=C(C#N)C=C1 | C20H17N3O2
